US07365085B2
[3-(6-Chloro-pyridin-2-yloxy)-propyl]-(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amine hydrochloride salt
Following the procedure of Example 6(d), except 6-chloro-2-pyridinol (Aldrich) and N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine were used instead of 5-(3-hydroxy-benzyl)-ethoxymethyl-1,2,3,4-tetrazole and 3-bromo-propanol in step 6(d), the title compound was synthesized as the free base. The tertiaryamine was then dissolved in diethyl ether and acidified with 1.0 M HCl/diethyl ether to give 90 mg (32% yield) of the title compound as a white solid. MS (ESI) 559.0 (M+).

reactant | 6-chloro-2-pyridinol | ClC1=CC=CC(=N1)O | C5H4ClNO
reactant | N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
reactant | 5-(3-hydroxy-benzyl)-ethoxymethyl-1,2,3,4-tetrazole | OC=1C=C(CC2=NN=NN2COCC)C=CC1 | C11H14N4O2
reactant | 3-bromo-propanol | BrCCCO | C3H7BrO
reactant | HCl diethyl ether | 1.0 M | Cl.C(C)OCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | [3-(6-Chloro-pyridin-2-yloxy)-propyl]-(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amine hydrochloride salt | 90 mg, 32% yield | Cl.ClC1=CC=CC(=N1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | InChI=1S/C30H27Cl2F3N2O.ClH/c31-27-16-8-17-28(36-27)38-19-9-18-37(20-24-14-7-15-26(29(24)32)30(33,34)35)21-25(22-10-3-1-4-11-22)23-12-5-2-6-13-23;/h1-8,10-17,25H,9,18-21H2;1H
